US09065058B2
Step 2: Synthesis of 2,7-Di-(dibenzothiophen-4-yl)-9-phenyl-9H-carbazole (abbreviation: 2,7DBT2PC-II)
In a 200-mL three-neck flask were mixed 0.7 g (4.3 mmol) of iodobenzene, 1.7 g (3.2 mmol) of 2,7-di-(dibenzothiophen-4-yl)-9H-carbazole, 0.6 g (5.5 mmol) of sodium tert-butoxide, and 36 mg (0.1 mmol) of bis(dibenzylideneacetone)palladium(0), and the air in the flask was replaced with nitrogen. Then, 5 mL of dehydrated xylene was added to this mixture. After the mixture was degassed while being stirred under reduced pressure, 0.7 mL (0.3 mmol) of tri(tert-butyl)phosphine (10 wt % hexane solution) was added to the mixture. This mixture was stirred at 120° C. for 5 hours in a nitrogen atmosphere to be reacted. After the reaction, 300 mL of toluene was added to this reaction mixture solution, and this suspension was filtered through Florisil and Celite. The resulting filtrate was concentrated, followed by purification by silica gel column chromatography (toluene as the developing solvent). The fraction thus obtained was concentrated, acetone and methanol were added thereto, and the mixture was irradiated with ultrasonic waves. Then, recrystallization gave 1.9 g of a white powder in 93% yield. The above synthesis method is illustrated in (E-8) below.

reactant | iodobenzene | 4.3 mmol, 0.7 g | IC1=CC=CC=C1 | C6H5I
reactant | 2,7-di-(dibenzothiophen-4-yl)-9H-carbazole | 3.2 mmol, 1.7 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C3=CC=2NC1=CC(=CC=C1C2C=C3)C3=CC=CC2=C3SC3=C2C=CC=C3 | C36H21NS2
reactant | sodium tert-butoxide | 5.5 mmol, 0.6 g | CC(C)([O-])C.[Na+]
reactant | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tri(tert-butyl)phosphine | 0.3 mmol, 0.7 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2,7-Di-(dibenzothiophen-4-yl)-9-phenyl-9H-carbazole | 1.9 g, 93% yield | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C3=CC=2N(C1=CC(=CC=C1C2C=C3)C3=CC=CC2=C3SC3=C2C=CC=C3)C3=CC=CC=C3 | C42H25NS2
